US05412117
A mixture of 1.00 g of 6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxylic acid, 0.44 g of 2,2,2-trifluoroethylamine, 0.97 g of 2,2'-dipyridyl disulfide, 1.16 g of triphenylphosphine, and 20 ml of dichloromethane was stirred at room temperature for 3 hours. The solvent was removed therefrom by distillation, and the residue was purified by silica gel column chromatography (developing solution; AcOEt:n-hexane=1:1) and then recrystallized from a mixture of n-hexane and ethyl acetate to obtain 0.98 g of N (2',2',2'-trifluoroethyl)-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxamide represented by formula shown below.

reactant | 6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxylic acid | 1.00 g | [N+](=O)([O-])C=1C=CC2=C(C(=CC(O2)(C)C)C(=O)O)C1 | C12H11NO5
reactant | 2,2,2-trifluoroethylamine | 0.44 g | FC(CN)(F)F | C2H4F3N
reactant | 2,2'-dipyridyl disulfide | 0.97 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | triphenylphosphine | 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2',2',2'-trifluoroethyl)-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxamide | FC(CC=1C(OC2=C(C1C(=O)N)C=C(C=C2)[N+](=O)[O-])(C)C)(F)F | C14H13F3N2O4
